US09315490B2
4-(3-(Methylsulfinyl)-1-(5-phenylpyrimidin-2-yl)-1H-indole-6-carbonyl)piperazin-2-one (Compound No. 70)
Synthesized from 3-(methylsulfinyl)-1-(5-phenylpyrimidin-2-yl)-1H-indole-6-carboxylic acid (200 mg, 0.53 mmol) and piperazin-2-one (64 mg, 0.63 mmol) in an analogous manner as described for example 52. White solid. Yield: 148 mg (61% of theory). HPLC-MS (method 4): Rt=2.6 min; m/z [M+H]+=460.3

reactant | 3-(methylsulfinyl)-1-(5-phenylpyrimidin-2-yl)-1H-indole-6-carboxylic acid | 0.53 mmol, 200 mg | CS(=O)C1=CN(C2=CC(=CC=C12)C(=O)O)C1=NC=C(C=N1)C1=CC=CC=C1 | C20H15N3O3S
reactant | piperazin-2-one | 0.63 mmol, 64 mg | N1C(CNCC1)=O | C4H8N2O
product | 4-(3-(Methylsulfinyl)-1-(5-phenylpyrimidin-2-yl)-1H-indole-6-carbonyl)piperazin-2-one | CS(=O)C1=CN(C2=CC(=CC=C12)C(=O)N1CC(NCC1)=O)C1=NC=C(C=N1)C1=CC=CC=C1 | C24H21N5O3S
